US06521561B1
A solution in toluene of N-ethylmaleimide, HN3 (excess relative to the maleimide), and the (salen)AlN3 catalyst depicted above (10 mol % relative to the maleimide) was maintained at −30° C. for 18 h. After a standard quench and work-up of the reaction mixture, the crude material was purified to yield 2-azido-N-ethylsuccinimide (93%, 93% ee).

reactant | N-ethylmaleimide | C(C)N1C(C=CC1=O)=O | C6H7NO2
reactant | HN3 | N=[N+]=[N-] | HN3
reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-azido-N-ethylsuccinimide | 93% | N(=[N+]=[N-])C1C(=O)N(C(C1)=O)CC | C6H8N4O2
